US07951805B2
SYNTHESIS OF 6-[4-(3,3-DIFLUORO-2-OXO-2,3-DIHYDROINDOL-1-YL)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE
A mixture of 3,3-difluoro-1-piperidin-4-yl-1,3-dihydroindol-2-one (0.180 g, 0.71 mmol), 6-chloropyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide (0.160 g, 0.66 mmol), K2CO3 (0.150 g, 1.08 mmol) and n-Bu4NI (10 mg) in dioxane (10 mL) was heated to reflux overnight, then concentrated. The residue was purified by flash chromatography to yield the title compound as a white powder in 60% yield (0.183 g). m.p. 51-53° C. 1H NMR (300 MHz, CDCl3) δ 7.97 (d, J=9.3 Hz, 1H), 7.86 (s, br, 1H), 7.50 (d, J=6.6 Hz, 1H), 7.12-6.91 (m, 3H), 4.66 (d, J=12.9 Hz, 2H), 4.35 (s, br, 1H), 3.46-3.42 (m, 2H), 3.09 (t, J=12.9 Hz, 2H), 2.52-2.35 (m, 2H), 1.90 (d, J=11.4 Hz, 2H), 1.69-1.65 (m, 2H), 1.28-1.23 (m, 2H), 0.72-0.55 (m, 1H), 0.48-0.25 (m, 2H), 0.08-−0.07 (m, 2H.); 13C NMR (75 MHz, CDCl3) δ 165.1, 163.1, 159.7, 144.9, 142.4, 133.4, 127.0, 125.1, 123.7, 120.3, 112.3, 110.7, 106.9, 50.9, 44.6, 39.1, 35.1, 29.5, 28.3, 27.5, 26.1, 10.4, 4.4. MS (ES+) m/z 456.3 (M+1).

reactant | 3,3-difluoro-1-piperidin-4-yl-1,3-dihydroindol-2-one | 0.71 mmol, 0.180 g | FC1(C(N(C2=CC=CC=C12)C1CCNCC1)=O)F | C13H14F2N2O
reactant | 6-chloropyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide | 0.66 mmol, 0.160 g | C1(CC1)CCCNC(=O)C=1N=NC(=CC1)Cl | C11H14ClN3O
reactant | K2CO3 | 1.08 mmol, 0.150 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | n-Bu4NI | 10 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-[4-(3,3-DIFLUORO-2-OXO-2,3-DIHYDROINDOL-1-YL)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE | 60% yield | C1(CC1)CCCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)N1C(C(C2=CC=CC=C12)(F)F)=O | C24H27F2N5O2
